US04652554
Acetic anhydride (20 ml., 212 mmol) was added gradually to fuming nitric acid (20 ml., 477 mmol) with efficient stirring, while the temperature was kept between -30° to -35° C. by external cooling. While the mixture was being stirred vigorously, 1-(3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine (10 g., 27 mmol) was added in batches to the homogeneous mixture while maintaining the temperature at about -30° C. The clear reaction mixture was allowed to warm gradually to 0° C. After being stirred for 30 minutes at this temperature, the solution was poured into a mixture of ice and saturated aqueous (NH4)2SO4 solution (250 ml.) that was stirred until all the ice had melted. The aqueous phase was then extracted with ethyl acetate (3×250 ml). The combined extracts were washed with saturated aqueous sodium bicarbonate (2×200 ml.) and water (3×200 ml.), and was then dried (Na2SO4) Crude 1 -(2-O-nitro-3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine (10.66 g., 95%) was obtained by removing the ethyl acetate under reduced pressure. The solid residue was crystallized from ethyl acetate to obtain pure 1-(2-O-nitro-3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine (9.65 g., 86% yield): m.p. 159.7°-160.6° C.

reactant | Acetic anhydride | 212 mmol, 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 477 mmol, 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-(3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine | 27 mmol, 10 g | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C)=O)N1C(=O)N=C(NC(C)=O)C=C1)O | C15H19N3O8
product | 1-(2-O-nitro-3,5-di-O-acetyl-β-D-arabinofuranosyl)-N4 -acetylcytosine | 9.65 g, 86% yield | [N+](=O)([O-])O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C(=O)N=C(NC(C)=O)C=C1 | C15H18N4O10
